US06307087B1
Synthesis of 3-methyl-4′-acetylbiphenyl via Suzuki Coupling
An oven dried resealable Schlenk tube was purged with argon and charged with palladium acetate (4.4 mg, 0.02 mmol, 2 mol %), ligand 2 [Example 1] (11.9 mg, 0.03 mmol, 3 mol %), 3-methylphenylboronic acid (204 mg, 1.5 mmol), and cesium fluoride (456 mg, 3.0 mmol). The tube was purged with argon, and dioxane (3 mL), and 4-chloroacetophenone (0.13 mL, 1.0 mmol) were added through a rubber septum. The septum was removed, the tube was sealed with a teflon screw cap and the mixture was stirred at room temperature until the starting aryl chloride had been completely consumed as judged by GC analysis. The reaction mixture was then diluted with ether (20 mL) and poured into a separatory funnel. The mixture was washed with 1M NaOH (20 mL), and the layers were separated. The aqueous layer was extracted with ether (20 mL), and the combined organic extracts were dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The crude material was then purified by flash chromatography on silica gel to give 195 mg (93%) of a white solid.

reactant | 3-methylphenylboronic acid | 1.5 mmol, 204 mg | CC=1C=C(C=CC1)B(O)O | C7H9BO2
reactant | cesium fluoride | 3.0 mmol, 456 mg | [F-].[Cs+]
reactant | 4-chloroacetophenone | 1.0 mmol, 0.13 mL | CC(=O)C1=CC=C(C=C1)Cl | C8H7ClO
catalyst | palladium acetate | 0.02 mmol, 4.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2,5,3′-Trimethylbiphenyl | 0.03 mmol, 11.9 mg | CC1=C(C=C(C=C1)C)C1=CC(=CC=C1)C | C15H16
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 3-methyl-4′-acetylbiphenyl | 195 mg, 93% | CC=1C=C(C=CC1)C1=CC=C(C=C1)C(C)=O | C15H14O
